US07129232B2
To a solution of 1-(2-fluoroethyl)-1H-pyrazol-5-amine (12 g) in ethanol (30 ml) were added concentrated hydrochloric acid (70 mg) and isoamyl nitrite (10.9 g). The reaction mixture was stirred at 25–38° C. for 2 hours. Diisopropyl ether and hexane were added to the reaction mixture, and the resulting oil was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2→1:1→2:1→1:0) to give-1-(2-fluoroethyl)-4-nitroso-1H-pyrazol-5-amine (4.8 g).

reactant | 1-(2-fluoroethyl)-1H-pyrazol-5-amine | 12 g | FCCN1N=CC=C1N | C5H8FN3
reactant | isoamyl nitrite | 10.9 g | N(=O)OCCC(C)C | C5H11NO2
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 70 mg | Cl | ClH
product | 1-(2-fluoroethyl)-4-nitroso-1H-pyrazol-5-amine | 4.8 g | FCCN1N=CC(=C1N)N=O | C5H7FN4O
